US06465504B1
106.0 g of salicyloyl chloride and 93.0 g of salicylamide are mixed and heated at 170° C. for 30 min until hydrogen chloride no longer escapes. The mixture is cooled and the residue is crystallized from ethanol. After drying, 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one is obtained as slightly yellow crystals of m.p. 206-208° C.

reactant | salicyloyl chloride | 106.0 g | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
reactant | salicylamide | 93.0 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | hydrogen chloride | Cl | ClH
product | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
